US05057524
α,α-Bis(3,4-difluorophenyl)-4-pyridinemethanol
A solution of 5.66 g (0.0179 mole) of 4-[bis(3,4-difluorophenyl)methyl]pyridine and 12 drops of 50% NaOH in 50 ml of DMSO was stirred at room temperature for 4.5 h with air bubbling through the reaction mixture. Water was added to the solution, and a tan precipitate was collected. This was recrystallized from CH2Cl2 -hexane to give 4.75 g (79.9%) of the title compound as a white, crystalline solid, mp 147°-149° C.

reactant | 4-[bis(3,4-difluorophenyl)methyl]pyridine | 0.0179 mole, 5.66 g | FC=1C=C(C=CC1F)C(C1=CC=NC=C1)C1=CC(=C(C=C1)F)F | C18H11F4N
reactant | DMSO | 50 ml | CS(=O)C | C2H6OS
catalyst | NaOH | 12 drops | [OH-].[Na+]
product | α,α-Bis(3,4-difluorophenyl)-4-pyridinemethanol | 4.75 g, 79.9% | FC=1C=C(C=CC1F)C(O)(C1=CC=NC=C1)C1=CC(=C(C=C1)F)F | C18H11F4NO
